US05696113
3-(1-homopiperazinyl)-6-methoxy-1,2-benzisoxazole
3-Chloro-6-methoxy-1,2-benzisoxazole (5.0 g, 27.2 mml) and homopiperazine (8.2 g, 81.6 mmol) were combined and mechanically stirred under N2 at 140° C. for 45 minutes. The reaction mixture was cooled to room temperature, dissolved with EtOAc (500 ml), and the solution was washed with water, brine, dried over MgSO4, and concentrated in vacuo. Flash column chromatography (silica gel, 20% MeOH/CH2Cl2) provided the product (2.0 g, m.p. 74°-75° C.

reactant | 3-Chloro-6-methoxy-1,2-benzisoxazole | 5.0 g | ClC1=NOC2=C1C=CC(=C2)OC | C8H6ClNO2
reactant | homopiperazine | 81.6 mmol, 8.2 g | N1CCNCCC1 | C5H12N2
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
product | 3-(1-homopiperazinyl)-6-methoxy-1,2-benzisoxazole | N1(CCNCCC1)C1=NOC2=C1C=CC(=C2)OC | C13H17N3O2
